US08030318B2
The 2-(5-Chloro-2-fluoro-phenyl)-7-(2-di-methylamino-ethylamino)-pyrido[2,3-d]pyrimidin-4-ol (0.18 g) was dissolved in P(O)Cl3 (10 mL) and heated to reflux for 2 hr. The mixture was reduced in volume and NaHCO3 (sat aq) was added. The mixture was extracted with CH2Cl2 (×3). The extracts were combined and dried over MgSO4, filtered and evaporated to dryness to afford N′-[4-Chloro-2-(5-chloro-2-fluoro-phenyl)-pyrido[2,3-d]pyrimidin-7-yl]-N,N-dimethylethane-1,2-diamine.

reactant | 2-(5-Chloro-2-fluoro-phenyl)-7-(2-di-methylamino-ethylamino)-pyrido[2,3-d]pyrimidin-4-ol | 0.18 g | ClC=1C=CC(=C(C1)C=1N=C(C2=C(N1)N=C(C=C2)NCCN(C)C)O)F | C17H17ClFN5O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | P(O)Cl3 | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | N′-[4-Chloro-2-(5-chloro-2-fluoro-phenyl)-pyrido[2,3-d]pyrimidin-7-yl]-N,N-dimethylethane-1,2-diamine | ClC=1C2=C(N=C(N1)C1=C(C=CC(=C1)Cl)F)N=C(C=C2)NCCN(C)C | C17H16Cl2FN5
